US05608088
subjecting 3,4-epoxycarane obtained above to a hydration reaction in the presence of a base catalyst in aqueous ethanol under pressure to obtain 3,4-carenediol of the formula [I].

reactant | 3,4-epoxycarane | O1C2(CC3C(CC21)C3(C)C)C | C10H16O
reactant | ethanol | C(C)O | C2H6O
product | 3,4-carenediol | C12=CC(C(CC1C2(C)C)O)(C)O | C10H16O2
